US06391887B1
4-Amino-7-(4-morpholinyl)-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
Analogously to Example 4, 7-(4-morpholinyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione (80 mg, 0.28 mmol) in 7N methanolic ammonia solution (15 ml) is reacted to form 40 mg (53%) of product.

reactant | 7-(4-morpholinyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 0.28 mmol, 80 mg | N1(CCOCC1)C=1C=CC=2C3C(C(NC2C1)=S)CCC3 | C16H20N2OS
reactant | ammonia | 7N, 15 ml | N | H3N
product | 4-Amino-7-(4-morpholinyl)-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | 40 mg, 53% | NC1=NC=2C=C(C=CC2C2C1CCC2)N2CCOCC2 | C16H21N3O
